M1 N10 N9 N13 GND nmos
M2 N5 N0 N8 VDD pmos
M3 N14 N4 N13 GND nmos
M4 N1 N12 N10 GND nmos
M5 N1 N7 N11 VDD pmos
M6 N8 LABEL_NET_0 VDD VDD pmos
M7 N5 N0 N14 GND nmos
C1 N3 N9
S1 (N2 LABEL_NET_1) switch_ideal
C2 N2 N4
M8 N11 N6 VDD VDD pmos
S2 (N3 LABEL_NET_2) switch_ideal
S3 (N2 N5) switch_ideal
S4 (N1 N9) switch_ideal
S5 (N1 N3) switch_ideal
S6 (N4 N5) switch_ideal
