M2 N10 N02 N13 GND nmos
M3 VOUTP VGG N8 VDD pmos
M1 N14 N01 N13 GND nmos
M4 VOUTN N12 N10 GND nmos
M5 VOUTN N7 N11 VDD pmos
M6 N8 VBB VDD VDD pmos
M7 VOUTP VGG N14 GND nmos
C2 N3 N02
S1 (N2 VINP) switch_ideal
C1 N2 N01
M8 N11 N6 VDD VDD pmos
S2 (N3 VINN) switch_ideal
S3 (N2 VOUTP) switch_ideal
S4 (VOUTN N02) switch_ideal
S5 (VOUTN N3) switch_ideal
S6 (N01 VOUTP) switch_ideal
